US07754728B2
2-Butoxy-8-hydroxy-9-{4-(3-pyridylmethoxycarbonyl)benzyl}adenine
After 2-butoxy-9-(4-carboxybenzyl)-8-methoxyadenine (0.05 g, 0.13 mmol) prepared in accordance with the method of Reference example 5 and potassium carbonate (0.03 g, 0.22 mmol) were added to DMF (10 ml), 3-chloromethylpyridine hydrochloride (0.03 g, 0.18 mmol) was added thereto, and the mixture was stirred at room temperature for 18 hours. After removing the solvent, the residue was poured into water and extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=300/1˜30/1) and the resulting solid was added to methanol (10 ml) and concentrated hydrochloric acid (10 ml). The mixture was stirred at room temperature for 18 hours. After being neutralized with saturated sodium hydrogencarbonate, the solution was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, concentrated and washed with methanol to give the captioned compound (0.03 g, 0.07 mmol, yield: 52%) as a white solid.

reactant | 2-butoxy-9-(4-carboxybenzyl)-8-methoxyadenine | 0.13 mmol, 0.05 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1=CC=C(C=C1)C(=O)O)OC)N | C18H21N5O4
reactant | potassium carbonate | 0.22 mmol, 0.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloromethylpyridine hydrochloride | 0.18 mmol, 0.03 g | Cl.ClCC=1C=NC=CC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Butoxy-8-hydroxy-9-{4-(3-pyridylmethoxycarbonyl)benzyl}adenine | 0.07 mmol, 0.03 g, yield: 52% | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1=CC=C(C=C1)C(=O)OCC=1C=NC=CC1)O)N | C23H24N6O4
